US08236943B2
Synthesis of 2,2-Dilinoleyl-4-(2-hydroxyethyl)[1,3]-dioxolane (II)
A mixture of dilinoleyl ketone (I, previously prepared as described in Example 1, 527 mg, 1.0 mmol), 1,3,4-butanetriol (technical grade, ca. 90%, 236 mg, 2 mmol) and pyridinium p-toluenesulfonate (50 mg, 0.2 mmol) in 50 mL of toluene was refluxed under nitrogen overnight with a Dean-Stark tube to remove water. The resulting mixture was cooled to room temperature. The organic phase was washed with water (2×30 mL), brine (50 mL), and dried over anhydrous Na2SO4. Evaporation of the solvent resulted in a yellowish oily residual (0.6 g). The crude product was purified by column chromatography on silica gel (230-400 mesh, 100 mL) with dichloromethane as eluent. This afforded 0.5 g of pure II as colourless oil. 1H NMR (400 MHz, CDCl3) δ: 5.25-5.48 (8H, m, 4×CH═CH), 4.18-4.22 (1H, m, OCH), 4.08 (1H, dd, OCH), 3.82 (2H, t, OCH2), 3.53 (1H, t, OCH), 2.78 (4H, t, 2×C═C—CH2—C═C), 2.06 (8H, q, 4× allylic CH2), 1.77-1.93 (2H, m, CH2), 1.52-1.68 (4H, m, 2×CH2), 1.22-1.45 (32H, m), 0.86-0.94 (6H, t, 2×CH3) ppm.

reactant | dilinoleyl ketone | C(CCCCCCC\C=C/C\C=C/CCCCC)C(=O)CCCCCCCC\C=C/C\C=C/CCCCC | C37H66O
reactant | 1,3,4-butanetriol | 2 mmol, 236 mg | C(CC(CO)O)O | C4H10O3
reactant | pyridinium p-toluenesulfonate | 0.2 mmol, 50 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 2,2-Dilinoleyl-4-(2-hydroxyethyl)[1,3]-dioxolane | C(CCCCCCC\C=C/C\C=C/CCCCC)C1(OCC(O1)CCO)CCCCCCCC\C=C/C\C=C/CCCCC | C41H74O3
